US07129268B2
Ethyl 4-acetoxy-2,6-diphenylphenoxyacetate (7.2 g, 18.5 mmol) was dissolved in wet toluene (400 ml) and a catalyst (25 g SiO2 treated with a solution of 2 g 4-toluenesulfonic acid in 10 ml acetone and evaporated in vacuo) was added. The mixture was stirred and heated at 100° C. for 6 h, cooled and filtered through a column of silica gel (50 g). Elution with benzene afforded 3.6 g (56%) of (2,6-diphenyl-4-hydroxy-phenoxy)-acetic acid ethyl ester as white crystals, which were recrystallized from benzene/petroleum ether. M.p. 91–93° C.

reactant | Ethyl 4-acetoxy-2,6-diphenylphenoxyacetate | 18.5 mmol, 7.2 g | C(C)(=O)OC1=CC(=C(OCC(=O)OCC)C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H22O5
reactant | 4-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | (2,6-diphenyl-4-hydroxy-phenoxy)-acetic acid ethyl ester | 3.6 g, 56% | C(C)OC(COC1=C(C=C(C=C1C1=CC=CC=C1)O)C1=CC=CC=C1)=O | C22H20O4
